US07026349B2
To solution of (R)-3-(5-tert-butoxycarbonylamino-2-chlorophenoxy)-pyrrolidine-1-carboxylic acid-tert-butyl ester (2 g, 4.9 mmol) in dioxane (30 mL) was added 6 N hydrogen chloride (20 mL). The reaction mixture was stirred for 2 hours, at which time it was concentrated. The resultant residue was triturated with ethyl acetate and dichloromethane, the diluted with 2.5 M potassium hydroxide (50 mL) and extracted with dichloromethane (3×50 mL). The combined organics were washed with brine (50 mL), dried over magnesium sulfate, and concentrated to give (R)-3-(5-amino-2-chlorophenoxy)-pyrrolidine (810 mg, 75%).

reactant | (R)-3-(5-tert-butoxycarbonylamino-2-chlorophenoxy)-pyrrolidine-1-carboxylic acid-tert-butyl ester | 4.9 mmol, 2 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)OC1=C(C=CC(=C1)NC(=O)OC(C)(C)C)Cl | C20H29ClN2O5
reactant | hydrogen chloride | 6 N, 20 mL | Cl | ClH
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | (R)-3-(5-amino-2-chlorophenoxy)-pyrrolidine | 810 mg, 75% | NC=1C=CC(=C(O[C@H]2CNCC2)C1)Cl | C10H13ClN2O
